US09062015B2
FS108: 4-[6-(1,1,3,3-Tetramethylindan-5-yl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
The preparation is carried out analogously to FS 102 starting from 4-(6-bromopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (US 2005/176722) and 4,4,5,5-tetramethyl-2-(1,1,3,3-tetramethylindan-5-yl)-1,3,2-dioxaborolane.

reactant | 4-(6-bromopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)Br | C14H20BrN3O2
reactant | 4,4,5,5-tetramethyl-2-(1,1,3,3-tetramethylindan-5-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1C=C2C(CC(C2=CC1)(C)C)(C)C)C | C19H29BO2
product | 4-[6-(1,1,3,3-Tetramethylindan-5-yl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)C=1C=C2C(CC(C2=CC1)(C)C)(C)C | C27H37N3O2
